US07893056B2
To a solution of racemic 1-(5-fluoro-6-hydrazino-2-methyl-4-pyrimidinyl)-N,N,4,4-tetramethyl-3-pyrrolidinamine (0.0617 g, 0.219 mmol) in DMF (3 mL) was added (2R)-3-cyclopentyl-2-({formyl[(phenylmethyl)oxy]amino}methyl)propanoic acid (0.0637 g, 0.209 mmol), N-methylmorpholine (0.120 mL, 1.091 mmol), 1-hydroxy-7-azabenzotriazole (34 mg, 0.250 mmol), and EDC (48 mg, 0.250 mmol). The solution was stirred overnight and then purified directly by Gilson RPLC to give [(2R)-2-(cyclopentylmethyl)-3-(2-{6-[4-(dimethylamino)-3,3-dimethyl-1-pyrrolidinyl]-5-fluoro-2-methyl-4-pyrimidinyl}hydrazino)-3-oxopropyl][(phenylmethyl)oxy]formamide (0.0775 g, 65% yield, mixture of diastereomers) as a pale yellow oil. LCMS: (M+H)+: 570.3.

reactant | racemic 1-(5-fluoro-6-hydrazino-2-methyl-4-pyrimidinyl)-N,N,4,4-tetramethyl-3-pyrrolidinamine | 0.219 mmol, 0.0617 g | FC=1C(=NC(=NC1NN)C)N1CC(C(C1)(C)C)N(C)C | C13H23FN6
reactant | (2R)-3-cyclopentyl-2-({formyl[(phenylmethyl)oxy]amino}methyl)propanoic acid | 0.209 mmol, 0.0637 g | C1(CCCC1)C[C@@H](C(=O)O)CN(OCC1=CC=CC=C1)C=O | C17H23NO4
reactant | N-methylmorpholine | 1.091 mmol, 0.120 mL | CN1CCOCC1 | C5H11NO
reactant | 1-hydroxy-7-azabenzotriazole | 0.250 mmol, 34 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | EDC | 0.250 mmol, 48 mg
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | [(2R)-2-(cyclopentylmethyl)-3-(2-{6-[4-(dimethylamino)-3,3-dimethyl-1-pyrrolidinyl]-5-fluoro-2-methyl-4-pyrimidinyl}hydrazino)-3-oxopropyl][(phenylmethyl)oxy]formamide | 0.0775 g, 65% yield | C1(CCCC1)C[C@H](CN(C=O)OCC1=CC=CC=C1)C(=O)NNC1=NC(=NC(=C1F)N1CC(C(C1)N(C)C)(C)C)C | C30H44FN7O3
